US05017602
4,4'-bis-(Piperidinoacetyl)biphenyl Dihydrobromide (12).
4,4'-bis-(Pyrrolidinoacetyl)biphenyl Dihydrobomide(7). A mixture of 1.32 g (0.0033 mol) of 4,4'-bis-bromoacetylbiphenyl and 0.52 g (0.0073 mol) of pyrrolidine in 70 mL of THF and 30 mL of MeOH was stirred at room temperature until all solid material dissolved (approx. 0.5 hours). Anhydrous HBr was bubbled through the reaction solution; the resulting mixture was cooled in an ice bath, and the white solid which separated was collected on a filter. This was crystallized twice from EtOH to afford 1.48 g (83%) of product, mp 306° C. (dec). Anal. (C24H30Br2N2O2) C, H, N.

reactant | 4,4'-bis-(Pyrrolidinoacetyl)biphenyl | N1(CCCC1)CC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CN1CCCC1)=O | C24H28N2O2
reactant | 4,4'-bis-bromoacetylbiphenyl | 0.0033 mol, 1.32 g | BrCC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CBr)=O | C16H12Br2O2
reactant | pyrrolidine | 0.0073 mol, 0.52 g | N1CCCC1 | C4H9N
reactant | THF | 70 mL | C1CCOC1 | C4H8O
solvent | MeOH | 30 mL | CO | CH4O
product | 4,4'-bis-(Piperidinoacetyl)biphenyl Dihydrobromide | 1.48 g, 83% | Br.Br.N1(CCCCC1)CC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CN1CCCCC1)=O | InChI=1S/C26H32N2O2.2BrH/c29-25(19-27-15-3-1-4-16-27)23-11-7-21(8-12-23)22-9-13-24(14-10-22)26(30)20-28-17-5-2-6-18-28;;/h7-14H,1-6,15-20H2;2*1H
